US08580794B2
3-nitro-4-((3-oxocyclohexyl)methoxy)benzenesulfonamide
Into a 250 mL round-bottomed flask was added sodium hydride (0.5 g) in tetrahydrofuran (10 mL) and then 1,4-dioxaspiro[4.5]decan-7-ylmethanol (0.5 g) was added. After the mixture stirred at room temperature for 20 minutes, 4-fluoro-3-nitrobenzenesulfonamide (0.65 g) was added. The mixture was stirred at room temperature for overnight. Water (20 mL) was added slowly. The aqueous layer was extracted by dichloromethane (3×20 mL). The combined organic layers were dried over Na2SO4. After filtration, and concentration of the filtrate, the residue was purified by reverse phase chromatography, eluting with 30-60% acetonitrile in water with 0.1% trifluoroacetic acid.

reactant | sodium hydride | 0.5 g | [H-].[Na+]
reactant | 1,4-dioxaspiro[4.5]decan-7-ylmethanol | 0.5 g | O1CCOC12CC(CCC2)CO | C9H16O3
reactant | 4-fluoro-3-nitrobenzenesulfonamide | 0.65 g | FC1=C(C=C(C=C1)S(=O)(=O)N)[N+](=O)[O-] | C6H5FN2O4S
reactant | Water | 20 mL | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 3-nitro-4-((3-oxocyclohexyl)methoxy)benzenesulfonamide | [N+](=O)([O-])C=1C=C(C=CC1OCC1CC(CCC1)=O)S(=O)(=O)N | C13H16N2O6S
